US09238640B2
5-Bromo-1H-indole-2-carboxylic acid dimethylamide (1.34 g, 5.00 mmol) was taken in anhydrous THF (50 mL) (suspension), and cooled to −20° C. A solution of lithium aluminium hydride (1.0 M solution in THF, 10.0 mL, 10.0 mmol) was added dropwise at −20° C. over a period of 15 minutes under nitrogen, and allowed to warm to 10° C.; stirring was continued at 10° C. for 1 hour. The reaction mixture was carefully quenched with aq. saturated ammonium chloride solution (10 mL). The reaction mixture was diluted with ethyl acetate (150 mL). The organic phase was separated, washed with water (100 mL), then brine (100 mL), and dried over anhydrous Na2SO4. Solvent was evaporated, to give (5-bromo-1H-indole-2-ylmethyl)-dimethyl amine as an off-white solid. Yield: 1.27 g (crude).

reactant | 5-Bromo-1H-indole-2-carboxylic acid dimethylamide | 5.00 mmol, 1.34 g | CN(C(=O)C=1NC2=CC=C(C=C2C1)Br)C | C11H11BrN2O
reactant | lithium aluminium hydride | 10.0 mmol, 1.0 M, 10.0 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (5-bromo-1H-indole-2-ylmethyl)-dimethyl amine | BrC=1C=C2C=C(NC2=CC1)CN(C)C | C11H13BrN2
